US08232410B2
(b) Synthesis of 5-(diethylamino)-2,4-dinitro-1-(2-methoxybenzoyl)aminobenzene
To a solution of 1-amino-3-diethylamino-4,6-dinitrobenzene (508 mg, 2.0 mmol) in 5 mL of pyridine, 2-methoxybenzoyl chloride (680 mg, 4.0 mmol) was added. After refluxing for 5 h, 50 mL of water was added to the reaction mixture, and the precipitate was collected by filtration and washed with 200 mL of water. Recrystallization from dichloromethane and methanol gave the desired product (622 mg, 80% yield) as a yellow solid: 1H-NMR (300 MHz, CDCl3) δ 1.29 (t, 6H, J=7.2 Hz), 3.39 (q, 4H, J=7.2 Hz), 4.13 (s, 3H), 7.07 (d, 1H, J=8.1), 7.11 (t, 1H, J=9.8 Hz), 7.55 (t, 1H, J=7.8 Hz), 8.23 (d, 1H, J=8.1 Hz), 8.83 (s, 1H), 8.98 (s, 1H); ESI MS m/z 389.1 [M+H]+.

reactant | 1-amino-3-diethylamino-4,6-dinitrobenzene | 2.0 mmol, 508 mg | NC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])N(CC)CC | C10H14N4O4
reactant | 2-methoxybenzoyl chloride | 4.0 mmol, 680 mg | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | water | 50 mL | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(diethylamino)-2,4-dinitro-1-(2-methoxybenzoyl)aminobenzene | 622 mg, 80% yield | C(C)N(C=1C(=CC(=C(C1)NC(C1=C(C=CC=C1)OC)=O)[N+](=O)[O-])[N+](=O)[O-])CC | C18H20N4O6
